Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Tetracycline Analogues / Navane / Morphine / Percocet / adhesive 
tape
 
Attending: ___.
 
Chief Complaint:
Midline abdominal tenderness  
 
Major Surgical or Invasive Procedure:
Laparoscopic lysis of adhesions and incarcerated incisional 
hernia repair with mesh on ___.

 
History of Present Illness:
The patient is a pleasant woman with a history
of distal pancreatectomy and splenectomy for a benign
neoplasm who developed pain and an incisional hernia at the
midline portion of a subcostal incision.  She had a CT scan
that confirmed that.  That was were she was tender.  Risks
and benefits of open versus laparoscopic surgery were
discussed.  She signed a consent for laparoscopic incisional
hernia repair with mesh. 

 
Past Medical History:
#. Recurrent acute pancreatitis
- Diagnosed in ___ ___
- currently being evaluated by Dr. ___ to date as above
#. Hypertension
#. Diabetes mellitus: Diagnosed in ___, started insulin
several months ago
#. Obesity
#. GERD - Diagnosed in ___
- takes Prilosec PRN  
#. Bipolar disorder: 
- Followed by psychiatrist Dr. ___ at ___ 
___ monthly
- sees therapist ___ once per week
#. Asthma:  Mild, intermittent
#. Migraine headaches
#. Status post TAH/BSO in ___ for endometriosis
#. Status post breast reduction bilaterally
 
Social History:
___
Family History:
No family history of pancreatitis or hepatbiliary disease
 
Physical Exam:
Vitals: 100.6F, HR 88, BP 125/77, RR 18 94%RA
Gen: NAD, AAox3, pleasant. 
Abd: Soft, obese, round, incision closed with suture and 
dermabond, abdominal binder intact, mildly tender to palpation. 
Incision healing very well, no erethyma or drainage. No 
dressing.  Bowel sounds present. 
Heart: RRR
Lungs: CTA bl 
Ext: no c/c/e 

 
Brief Hospital Course:
On HD1, patient presented for elective repair of a midline 
incisional hernia. Her surgery was performed laproscopically and 
was without complications. HD2, the patients pain was controlled 
with dilaudid. She was advanced to sips. She was put on her 
regular medications. Her blood sugar was high despite being npo 
the night before and being on ___ dose of her lantus. She was 
put on a sliding scale and her home dose of lantus. She was up 
and ambulating on HD2. Hd3 she was eating a regular diet and her 
pain was well controlled with po dilaudid. She was put on all 
her home medications and given instructions to follow up in 
clinic with Dr. ___. She was discharged on HD3. 
 
Medications on Admission:
lantus 45 qpm, novolog ss, loratidine 10 prn, nifedipine XR 90', 
omeprazole 40', trazodone 50 prn, asa81', abilify 5', atenolol 
50', bupropion 200', clonazepam 1'', flovent
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily). Capsule, 
Delayed Release(E.C.)(s) 
2. nifedipine 90 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
3. aripiprazole 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. atenolol 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
5. bupropion HCl 100 mg Tablet Extended Release Sig: Two (2) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
6. clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).  
7. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia, anxiety.  
8. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day) as needed for SOB.  
9. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours): for 3 ___ and ___ take as necessary for pain. 
 
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*30 Capsule(s)* Refills:*2*
11. hydromorphone 2 mg Tablet Sig: ___ Tablets PO every ___ 
hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
12. Lantus 100 unit/mL Solution Sig: ___ (45) units 
Subcutaneous at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Incarcerated incisional hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume your home medications unless specifically 
instructed otherwise.
Please take new medications as directed.
Do not drive while taking pain medication.
Do not lift over 5 pounds (half a gallon of milk) until cleared 
by your surgeon in clinic.  
Avoid strenuous exercise and vigorous activity until cleared by 
your surgeon.
You may shower after discharge; avoid soaking in the tub or 
swimming until you are seen in surgery clinic.
Please keep your follow up appointments!
 
Followup Instructions:
___